US05686482
A 0.50 g portion of 2-methoxy-4-methylthio-5-nitrobenzoic acid was suspended in 5 ml of acetic acid, and 0.77 ml of 30% hydrogen peroxide aqueous solution was added thereto, followed by 12 hours of stirring. After completion of the reaction, the reaction solution was poured on crushed ice, and the thus precipitated product of interest was collected by filtration, washed with water and then dried under a reduced pressure to give 0.35 g of 4-methylsulfinyl-2-methoxy-5-nitrobenzoic acid.

reactant | 2-methoxy-4-methylthio-5-nitrobenzoic acid | COC1=C(C(=O)O)C=C(C(=C1)SC)[N+](=O)[O-] | C9H9NO5S
reactant | hydrogen peroxide | 0.77 ml | OO | H2O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 4-methylsulfinyl-2-methoxy-5-nitrobenzoic acid | 0.35 g | CS(=O)C1=CC(=C(C(=O)O)C=C1[N+](=O)[O-])OC | C9H9NO6S
